US08975406B2
A solution of 3-fluoro-5-bromopyridine-2-carboxamide (1.44 g, 6.5 mmol) in conc HCl (aq) (17 mL) was heated to 120° C. for 1.5 h. The reaction was cooled in an ice bath and 48% NaOH was added to slowly until the pH was 5. The solvent was removed in vacuo and toluene (25 mL) was added and then removed in vacuo. The resulting solid was extracted with 4:6 methanol/DCM (×2) and the combined extracts evaporated in vacuo to give crude 3-fluoro-5-bromopyridine carboxylic acid hydrochloride which was used directly without further purification.

reactant | 3-fluoro-5-bromopyridine-2-carboxamide | 6.5 mmol, 1.44 g | FC=1C(=NC=C(C1)Br)C(=O)N | C6H4BrFN2O
reactant | NaOH | [OH-].[Na+]
reactant | HCl | 17 mL | Cl | ClH
product | 3-fluoro-5-bromopyridine carboxylic acid hydrochloride | Cl.FC=1C(=NC=C(C1)Br)C(=O)O | InChI=1S/C6H3BrFNO2.ClH/c7-3-1-4(8)5(6(10)11)9-2-3;/h1-2H,(H,10,11);1H
